US08859573B2
4-(4-chloro-3-(trifluoromethyl)benzyl)benzaldehyde
To a suspension of 4-(bromomethyl)-1-chloro-2-(trifluoromethyl)benzene (4.5 g, 16.45 mmol), potassium trifluoro(4-formylphenyl)borate (3.52 g, 16.62 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.672 g, 0.823 mmol) and Cs2CO3 (16.08 g, 49.4 mmol) in cyclopentyl methyl ether (100 mL) and water (100 mL). The mixture was charged with Argon and stirred for overnight at 80° C. The result mixture was cooled to room temperature and partitioned with water 100 mL and ethyl acetate 100 mL. The organic phase was washed by water, brine and dried over sodium sulfate, the solvent was removed and the residue was purified via flash column chromatography. Removed the solvent afforded the title compound (2.55 g). LC-MS (ESI): m/z 299 [M+H]+

reactant | 4-(bromomethyl)-1-chloro-2-(trifluoromethyl)benzene | 16.45 mmol, 4.5 g | BrCC1=CC(=C(C=C1)Cl)C(F)(F)F | C8H5BrClF3
reactant | potassium trifluoro(4-formylphenyl)borate | 16.62 mmol, 3.52 g | [B-](C1=CC=C(C=C1)C=O)(F)(F)F.[K+]
reactant | Cs2CO3 | 49.4 mmol, 16.08 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | cyclopentyl methyl ether | 100 mL | COC1CCCC1 | C6H12O
solvent | water | 100 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.823 mmol, 0.672 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 4-(4-chloro-3-(trifluoromethyl)benzyl)benzaldehyde | 2.55 g | ClC1=C(C=C(CC2=CC=C(C=O)C=C2)C=C1)C(F)(F)F | C15H10ClF3O
